US06310070B1
1.4 ml (10 mmol) of triethylamine, 1.5 g (11 mmol) of 1-hydroxybenzotriazole, and 2.3 g (12 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added to a solution of 1.7 g (10 mmol) of 3-pyridylacetic acid hydrochloride in 100 ml of N,N-dimethylformamide under cooling with ice. The mixture was stirred for one hour while cooling with ice. 2.05 g (9.5 mmol) of 4-amino-1-benzyl-5-imidazole carboxamide which was obtained in Reference Example 2 was added to the reaction solution, followed by stirring overnight. The reaction solution was concentrated under vacuum and 5% aqueous solution of sodium hydrogencarbonate was added to the concentrate to deposite a solid precipitate. The precipitate was collected by filtration through a funnel with a glass filter. The resulting solid was washed with 5% aqueous solution of sodium hydrogencarbonate, then with distilled water, and dried under vacuum to obtain a crude product, which was recrystallized from hot methanol to obtain 1.83 g of 1-benzyl-4-(3-pyridylacetylamino)-5-imidazolecarboxamide (yield 57%).

reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 11 mmol, 1.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12 mmol, 2.3 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-pyridylacetic acid hydrochloride | 10 mmol, 1.7 g | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-amino-1-benzyl-5-imidazole carboxamide | 9.5 mmol, 2.05 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
